US07700529B1
Ethyl acrylate (200 g, 1.99 mol, commercially available at Aldrich Chemical Company, Inc.) was dissolved in 500 ml of toluene. The resulting solution was then cooled to 0° C. using a dry ice isopropanol bath. Boron trifluoride etherate (28 g, 0.19 mol, commercially available at Aldrich Chemical Company, Inc.) was added to the solution. Cyclopentadiene (197 g, 2.98 mol, freshly prepared by cracking dicyclopentadiene, which is commercially available at Aldrich Chemical Company, Inc.). was then added to the cold solution dropwise. After the feed was complete the reaction mixture was aged for 1 hr. The crude reaction mixture was poured onto 2 L of 10% sulfuric acid and wet ice. The organic layer was removed and then washed with sodium carbonate solution until basic. Fractional distillation afforded endo bicycle[2.2.1]hept5-ene-2-carboxylic acid, ethyl ester (300 g, 90% yield), which had a boiling point of 82° C. at a pressure of 10 mmHg.

reactant | Ethyl acrylate | C(C=C)(=O)OCC | C5H8O2
reactant | Boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | Cyclopentadiene | C1=CC=CC1 | C5H6
reactant | dicyclopentadiene | C1C=CC2C1C3CC2C=C3 | C10H12
reactant | sulfuric acid | 2 L | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | hept5-ene-2-carboxylic acid, ethyl ester | 300 g, 90% yield | CC(CCC=CC)C(=O)OCC | C10H18O2
